US04199506
Preparation of Ethyl 2-Iodo-4-Trifluoromethyl-5-Thiazolecarboxylate.
To a cold (-5° C.) solution of 4.0 g (0.0166 mole) of ethyl 2-amino-4-trifluoromethyl-5-thiazolecarboxylate, prepared according to U.S. Pat. No. 2,726,237, in 30 ml. of 85% phosphoric acid and 30 ml. of 70% nitric acid was added a solution of 1.26 g (0.0166 mole) of sodium nitrite in 10 ml. of water in 10 minutes. The reaction mixture was stirred for 10 minutes and poured into a solution of 10 g of potassium iodide in 100 ml. of water. The reaction mixture was stirred overnight and extracted with ether. The ether solution was dried and concentrated and the residue was chromatographed on silica gel to give 1.5 g of the desired product, m.p. 75°-76° C.

reactant | ethyl 2-amino-4-trifluoromethyl-5-thiazolecarboxylate | 0.0166 mole, 4.0 g | NC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C7H7F3N2O2S
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sodium nitrite | 0.0166 mole, 1.26 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 10 g | [I-].[K+]
solvent | water | O | H2O
product | Ethyl 2-Iodo-4-Trifluoromethyl-5-Thiazolecarboxylate | 1.5 g | IC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C7H5F3INO2S
